US04002640
4.1 G. of 1-amino-2-nitro-4-cyanomethylthiobenzene in 60 ml. of methanol and 12 ml. of water is treated with 1.25 g. of ferrous sulfate and 3.3 g. of iron powder at reflux. After 2 hours, 1.25 g. of ferrous sulfate and 3.3 g. of iron powder are added and heating is continued for 4 hours. The mixture is poured into 600 ml. of hot tetrahydrofuran and filtered. 1,2-Diamino-4-cyanomethylthiobenzene is obtained from the filtrate by evaporation.

reactant | 1-amino-2-nitro-4-cyanomethylthiobenzene | NC1=C(C=C(C=C1)SCC#N)[N+](=O)[O-] | C8H7N3O2S
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1,2-Diamino-4-cyanomethylthiobenzene | NC1=C(C=C(C=C1)SCC#N)N | C8H9N3S
